US08372840B2
iv) 1-(3-Benzylamino-phenyl)-imidazolidin-2-one
A solution of 1-(3-amino-phenyl)-imidazolidin-2-one (0.27 g, 1.5 mmol), benzaldehyde (0.17 ml, 1.7 mmol) and acetic acid (0.13 ml, 2.2 mmol) in dry tetrahydrofuran (10 ml) was stirred at room temperature for 6 hrs. Sodium borohydride (0.14 g, 3.8 mmol) was added and the reaction stirred at room temperature overnight. The reaction mixture was quenched with water (25 ml) then extracted with dichloromethane (3×50 ml). The organic extracts were combined, dried (magnesium sulphate) and concentrated in vacuo. HPLC retention time 7 min. Mass spectrum (ES+) m/z 268 (M+H).

reactant | 1-(3-amino-phenyl)-imidazolidin-2-one | 1.5 mmol, 0.27 g | NC=1C=C(C=CC1)N1C(NCC1)=O | C9H11N3O
reactant | benzaldehyde | 1.7 mmol, 0.17 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | 2.2 mmol, 0.13 ml | C(C)(=O)O | C2H4O2
reactant | Sodium borohydride | 3.8 mmol, 0.14 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(3-Benzylamino-phenyl)-imidazolidin-2-one | C(C1=CC=CC=C1)NC=1C=C(C=CC1)N1C(NCC1)=O | C16H17N3O
